US04307091
A mixture of 25 g of 4H-1,4-benzoxazin-2,3-dione and 14.3 ml of thionylchloride in 500 ml of toluene and 5 ml dimethylformamide was heated at about 130° C. until all solids dissolved (about 2-3 hours). The solution was decanted hot (if the solution was deeply colored, charcoal was added and following stirring, the solution was filtered) and the organic solution was evaporated to dryness to give 29 g of 3-chloro-4H-1,4-benzoxazin-2-one, m.p. 133°-136° C.

reactant | 4H-1,4-benzoxazin-2,3-dione | 25 g | O1C(C(NC2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | thionylchloride | 14.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4H-1,4-benzoxazin-2-one | 29 g | ClC1C(OC2=C(N1)C=CC=C2)=O | C8H6ClNO2
